US03998829
21,21-Dimethyl-3α-hydroxy-5α-pregnane-11,20-dione
3α-Hydroxy-21-methylene-21-morpholinomethyl-5α-pregnane-11,20-dione (500 mg) was hydrogenated over 10% palladium on carbon (50 mg) in ethyl acetate. The catalyst was filtered off and the filtrate evaporated to a white foam. The foam was purified by preparative t.l.c. (ethyl acetate/petrol) to give title compound (180 mg) as a white foam [α]D + 133° (c, 1.02).

reactant | 3α-Hydroxy-21-methylene-21-morpholinomethyl-5α-pregnane-11,20-dione | 500 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C(CN5CCOCC5)=C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C27H41NO4
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 21,21-Dimethyl-3α-hydroxy-5α-pregnane-11,20-dione | 180 mg | CC(C([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O)C | C23H36O3
